US08207134B2
4) Synthesis of 3-[2-(1-methoxy-1-methyl-ethoxy)-ethyl]-7-(1-methoxy-1-methyl-ethoxymethyl)-benzo[b]thiophene
Under a nitrogen stream, to a solution (3 mL) of 2-(7-hydroxymethyl-benzo[b]thiophen-3-yl)-ethanol (78 mg, 0.37 mmol) in THF were added 2-methoxypropene (358 μL, 3.7 mmol) and pyridinium p-toluenesulfonic acid (1 mg, 0.037 mmol) at 0° C. The resultant solution was stirred at the same temperature for 30 minutes, and then saturated aqueous sodium hydrogen carbonate was added thereto. The resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. Solvent was then removed by distillation under reduced pressure, to thereby obtain a crude product of the titled compound (123 mg, 94%).

reactant | 2-(7-hydroxymethyl-benzo[b]thiophen-3-yl)-ethanol | 0.37 mmol, 3 mL, 78 mg | OCC1=CC=CC2=C1SC=C2CCO | C11H12O2S
reactant | 2-methoxypropene | 3.7 mmol, 358 μL | COC(=C)C | C4H8O
reactant | pyridinium p-toluenesulfonic acid | 0.037 mmol, 1 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-[2-(1-methoxy-1-methyl-ethoxy)-ethyl]-7-(1-methoxy-1-methyl-ethoxymethyl)-benzo[b]thiophene | 123 mg, 94% | COC(C)(OCCC=1C2=C(SC1)C(=CC=C2)COC(C)(C)OC)C | C19H28O4S
